US08080563B2
Sodium hydride (54 mg, 1.35 mmol) was added to a solution of 4-(3,5-dichloropyridin-4-ylamino)-8-hydroxy-7-methoxyquinolin-2(1H)-one (380 mg, 1.08 mmol) and DMSO (20 ml) at rt under N2. After 1 h, ethyl 6-bromohexanoate (770 mg, 3.45 mmol) was added, and the mixture was heated at 30° C. for 5 h. The reaction was quenched with drops of water, poured into 0.5 M KH2PO4, and extracted with EtOAc (100 mL×3). The combined extracts were washed with water and then brine, dried, filtered, concentrated, and purified by silica gel chromatography (ethyl acetate: pet. ether) to give ethyl 6-(4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxo-1,2-dihydroquinolin-8-yloxy)hexanoate: MS (ESI): 494.0.

reactant | Sodium hydride | 1.35 mmol, 54 mg | [H-].[Na+]
reactant | 4-(3,5-dichloropyridin-4-ylamino)-8-hydroxy-7-methoxyquinolin-2(1H)-one | 1.08 mmol, 380 mg | ClC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)O)=O)Cl | C15H11Cl2N3O3
reactant | ethyl 6-bromohexanoate | 3.45 mmol, 770 mg | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | ethyl 6-(4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxo-1,2-dihydroquinolin-8-yloxy)hexanoate | ClC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)OCCCCCC(=O)OCC)=O)Cl | C23H25Cl2N3O5
